US05916889
A mixture of 2-(1-piperazinyl)-3-pyridinecarboxylic acid ethyl ester (4.6 g, 0.019 mol), 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl methanesulfonate (5.0 g, 0.015 mol) and potassium carbonate (4.8 g) in N,N-dimethylformamide (50 ml) was heated to 60° C. for 5 h. After standing overnight, the solid was filtered off and washed with benzene. The filtrate was diluted with benzene (200 ml) and washed with water (4×100 ml). The organic solution was dried (MgSO4) and the solvent evaporated in vacuo. The residue (7.8 g) was purified by column chromatography on silica gel using benzene and a benzene-ethyl acetate mixture as eluents, affording 2-(4-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-1-piperazinyl)-3-pyridinecarboxylic acid ethyl ester (3.4 g, 48%) as an oil.

reactant | 2-(1-piperazinyl)-3-pyridinecarboxylic acid ethyl ester | 0.019 mol, 4.6 g | C(C)OC(=O)C=1C(=NC=CC1)N1CCNCC1 | C12H17N3O2
reactant | 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl methanesulfonate | 0.015 mol, 5.0 g | CS(=O)(=O)OCCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H20O3S
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(4-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-1-piperazinyl)-3-pyridinecarboxylic acid ethyl ester | 3.4 g, 48% | C(C)OC(=O)C=1C(=NC=CC1)N1CCN(CC1)CCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C30H33N3O2
